US07553965B2
N-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-N-m-tolyl-benzene-sulfonamide hydrochloride (97)
Benzenesulfonyl chloride (48.6 mg, 0.28 mmol) was added to a solution of [3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-m-tolyl-amine dihydro-chloride (43.0 mg, 0.11 mmol) and N,N′-diisopropylethylamine (2 ml) in CH2Cl2 (2 mL) and the mixture was stirred overnight at room temperature. The resulting solution was washed with water (3×10 ml), dried over Na2SO4 and evaporated to dryness. The free base was dissolved in ethyl acetate (1 ml). A 2.8 M solution of hydrogen chloride in ethanol (0.10 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (20.0 mg, 36% yield).

reactant | Benzenesulfonyl chloride | 0.28 mmol, 48.6 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | [3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-m-tolyl-amine dihydro-chloride | 0.11 mmol, 43.0 mg | Cl.Cl.C1CC2N(CCC3=CC=CC1=C23)CCCNC=2C=C(C=CC2)C
reactant | N,N′-diisopropylethylamine | 2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-N-m-tolyl-benzene-sulfonamide hydrochloride | 20.0 mg, 36% yield | Cl.C1CC2N(CCC3=CC=CC1=C23)CCCN(S(=O)(=O)C2=CC=CC=C2)C=2C=C(C=CC2)C | InChI=1S/C27H30N2O2S.ClH/c1-21-8-5-11-24(20-21)29(32(30,31)25-12-3-2-4-13-25)18-7-17-28-19-16-23-10-6-9-22-14-15-26(28)27(22)23;/h2-6,8-13,20,26H,7,14-19H2,1H3;1H
